US09079866B2
N-(2-Bromophenyl)ethanesulfonamide
To a solution of 2-bromoaniline (344 mg, 2.0 mmol) in pyridine (5 mL) was slowly added ethyl-sulfonyl chloride (257 mg, 2.0 mmol) at rt and the mixture was stirred at rt for 16 hours. The pyridine was removed under reduced pressure and resulting residue diluted with water (30 mL) and extracted with DCM (10 mL×2). The combined organic extracts were washed with brine, dried over Na2SO4, filtered and concentrated to dryness. The residue was purified by FCC to give the title compound (240 mg, 45%). MS (ESI): mass calcd. for C8H10BrNO2S 262.96 m/z found 264.1 [M+H]+. 1H NMR (300 MHz, CDCl3) δ 7.71 (dd, J=4.8, 1.5, 1H), 7.59 (dd, J=4.8, 1.5, 1H), 7.32-7.28 (m, 1H), 7.08-7.05 (m, 1H), 6.77 (bs, 1H), 3.14 (q, J=7.2, 2H), 1.41 (t, J=7.5, 3H).

reactant | 2-bromoaniline | 2.0 mmol, 344 mg | BrC1=C(N)C=CC=C1 | C6H6BrN
reactant | ethyl-sulfonyl chloride | 2.0 mmol, 257 mg | C(C)S(=O)(=O)Cl | C2H5ClO2S
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 30 mL | O | H2O
product | N-(2-Bromophenyl)ethanesulfonamide | 240 mg, 45% | BrC1=C(C=CC=C1)NS(=O)(=O)CC | C8H10BrNO2S
